US07947841B2
Add 2 N sodium hydroxide (20 mL) to a solution of 5-(5-pyridin-2-yl[1,3,4]oxadiazol-2-yl)pentanoic acid methyl ester (8.16 g, 31 mmol) in THF (60 mL) and methanol (20 mL) at room temperature under nitrogen and heat the mixture at reflux for 12 hours. Remove the solvent under reduced pressure, dilute the residue with water (500 mL), and wash with ethyl acetate (200 mL). Adjust the pH of the aqueous layer to pH 3 with concentrated HCl and extract with ethyl acetate (3×200 mL). Wash the combined organic extracts with brine (200 mL), dry over sodium sulfate, and remove the solvent under reduced pressure to afford 5-(5-pyridin-2-yl[1,3,4]oxadiazol-2-yl)pentanoic acid (2.05 g, 27%). APCI mass spectrum m/z 246 [C12H13N3O3+H]+.

reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | 5-(5-pyridin-2-yl[1,3,4]oxadiazol-2-yl)pentanoic acid methyl ester | 31 mmol, 8.16 g | COC(CCCCC=1OC(=NN1)C1=NC=CC=C1)=O | C13H15N3O3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 5-(5-pyridin-2-yl[1,3,4]oxadiazol-2-yl)pentanoic acid | 2.05 g, 27% | N1=C(C=CC=C1)C1=NN=C(O1)CCCCC(=O)O | C12H13N3O3
